US08530663B2
Pd(OH)2/C (0.4 g) was added to a solution of 3′,6′-dihydro-2′H-[3,4′]bipyridinyl-4,1′-dicarboxylic acid 1′-t-butyl ester 4-methyl ester (500 mg, 1.2 mmol, 1.0 eq.) in EtOAc (15 mL), maintained under hydrogen at 1 atm. The resulting solution was stirred over night at room temperature. The solids were filtered. The resulting mixture was concentrated under vacuum. The residue was applied onto a silica gel column and eluted with EtOAc/PE (1:3) to yield 3′,4′,5′,6′-tetrahydro-2′H-[3,4′]bipyridinyl-4,1′-dicarboxylic acid 1′-t-butyl ester 4-methyl ester (240 mg) as a colorless liquid.

reactant | 3′,6′-dihydro-2′H-[3,4′]bipyridinyl-4,1′-dicarboxylic acid 1′-t-butyl ester 4-methyl ester | 1.2 mmol, 500 mg, 1.0 eq. | COC(=O)C1=C(C=NC=C1)C=1CCN(CC1)C(=O)OC(C)(C)C | C17H22N2O4
solvent | EtOAc | 15 mL | CCOC(=O)C | C4H8O2
catalyst | Pd(OH)2/C | 0.4 g | [OH-].[OH-].[Pd+2]
product | 3′,4′,5′,6′-tetrahydro-2′H-[3,4′]bipyridinyl-4,1′-dicarboxylic acid 1′-t-butyl ester 4-methyl ester | 240 mg | COC(=O)C1=C(C=NC=C1)C1CCN(CC1)C(=O)OC(C)(C)C | C17H24N2O4
